US04011331
N-Methyl-N'-[2-(2-ethylpiperidino)-ethyl]-thiourea
By the general method described in Example 1, 1-(2-aminoethyl)-2-ethylpiperidine is reacted with methyl isothiocyanate to give the title compound.

reactant | 1-(2-aminoethyl)-2-ethylpiperidine | NCCN1C(CCCC1)CC | C9H20N2
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | N-Methyl-N'-[2-(2-ethylpiperidino)-ethyl]-thiourea | CNC(=S)NCCN1C(CCCC1)CC | C11H23N3S
